US05767131
3-(4-Phenylpiperidin-1-yl)propyl acetoacetate.
Diketene (0.95 mL, 12 mmol, 1.3 equiv) was added to a solution of 1-(3-hydroxypropyl)-4-phenylpiperidine (2.08 g, 9.48 mmol, 1.0 equiv) in toluene (30 mL), and the mixture was stirred under argon for 70 hours at room temperature. Removal of solvent gave 2.88 g (100%) of light brown, viscous oil, which was characterized spectroscopically and used for the next reaction without purification.

reactant | Diketene | 12 mmol, 0.95 mL, 1.3 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 1-(3-hydroxypropyl)-4-phenylpiperidine | 9.48 mmol, 2.08 g, 1.0 equiv | OCCCN1CCC(CC1)C1=CC=CC=C1 | C14H21NO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Phenylpiperidin-1-yl)propyl acetoacetate | C(CC(=O)C)(=O)OCCCN1CCC(CC1)C1=CC=CC=C1 | C18H25NO3
